US08378108B2
A solution of 3-(1,3-dioxolan-2-yl)aniline (3.26 g, 19.7 mmol), 4-bromopicolinic acid (4.38 g, 21.7 mmol), (2-(7-Aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU) (8.99 g, 23.6 mmol), and N-methylmorpholine (2.6 mL, 23.6 mmol) in N,N-dimethylformamide was stirred at room temperature for 30 minutes. The solvent was removed under reduced pressure, and the residue was purified by flash chromatography (1:1 Hexanes/ethyl acetate) to afford a mixture of N-(3-(1,3-dioxolan-2-yl)phenyl)-4-bromopicolinamide acetal and the corresponding aldehyde (5.56 g, ˜81% yield, contains ˜15% aldehyde). M+1=349.1 Step 2/3: To a solution of the product of Step (1.12 g, 3.23 mmol) in acetone/water (4:1, 0.2 M), was added 4-methylbenzenesulfonic acid (61 mg, 0.323 mmol), and the mixture was stirred overnight. The reaction was diluted with methylene chloride and washed with brine (2×). The organics were dried over magnesium sulfate, filtered and the solvent removed from the filtrate under reduced pressure, to provide a white solid. This material was dissolved in methylene chloride, (0.1 M), 4 Å powdered molecular sieves (3.2 g, 1 g/mmol) and cyclopropyl amine (1.12 mL, 12.9 mmol) were added and the reaction mixture was stirred for 6 hours. The molecular sieves were filtered off, washed with methylene chloride, and solvent removed from the filtrate under reduced pressure, to afford 1.1 g (quantitative yield) of 4-bromo-N-(3-((cyclopropylimino)methyl)phenyl)-picolinamide as a white solid. M+1=343.1. Step 4: To a solution of 4-bromo-N-(3-((cyclopropylimino)methyl)phenyl)picolinamide (970 mg, 2.83 mmol) in dimethoxyethane/methanol (2:1, 0.1M) were added toluenesulfonylmethyl isocyanide (1.10 g, 5.65 mmol) and cyclopropylamine (392 μL, 5.65 mmol). The reaction mixture was stirred for 14 hours at 52° C., and additional toluenesulfonylmethyl isocyanide (550 mg, 2.83 mmol) was added. The reaction mixture was stirred an additional 6 hours, the solvent removed under reduced pressure, concentrated, and the residue purified by flash chromatography (2-8% methanol in methylene chloride) to afford 110 mg of 4-bromo-N-(3-(1-cyclopropyl-1H-imidazol-5-yl)phenyl)picolinamide. M+1=383.1 Step 5: A suspension of 4-bromo-N-(3-(1-cyclopropyl-1H-imidazol-5-yl)phenyl)picolinamide (75.0 mg, 0.196 mmol), boronic acid (33.8 mg, 0.274 mmol), dppf(Pd)Cl2 (14.3 mg, 0.0196), potassium carbonate (81.3 mg, 0.588 mmol) in degassed toluene (1 mL), degassed water (0.5 mL) and degassed isopropanol (0.5 mL) was heated at 95° C. for 2 hours. The aqueous phase was discarded and the solvent removed under reduced pressure from the organic portion. Purification by reverse phase HPLC provided N-(3-(1-cyclopropyl-1H-imidazol-5-yl)phenyl)-3,4′-bipyridine-2′-carboxamide (17.3 mg, 23%) as a white solid.

reactant | 4-bromo-N-(3-((cyclopropylimino)methyl)phenyl)picolinamide | 2.83 mmol, 970 mg | BrC1=CC(=NC=C1)C(=O)NC1=CC(=CC=C1)C=NC1CC1 | C16H14BrN3O
reactant | toluenesulfonylmethyl isocyanide | 5.65 mmol, 1.10 g | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | cyclopropylamine | 5.65 mmol, 392 μL | C1(CC1)N | C3H7N
reactant | toluenesulfonylmethyl isocyanide | 2.83 mmol, 550 mg | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
solvent | dimethoxyethane methanol | 0.1M | C(OC)COC.CO
product | 4-bromo-N-(3-(1-cyclopropyl-1H-imidazol-5-yl)phenyl)picolinamide | 110 mg | BrC1=CC(=NC=C1)C(=O)NC1=CC(=CC=C1)C1=CN=CN1C1CC1 | C18H15BrN4O
